US09193721B2
Step A: Methyl 5,6-dichloro-2-(3-fluorophenyl)nicotinate
Methyl 5-chloro-2-(3-fluorophenyl)nicotinate 1-oxide (3.0 g, 11 mmol) was stirred in phosphoryl chloride (30 mL) and heated at 90° C. for 1 hour. Evaporation and purification by flash column chromatography using ethyl acetate in hexanes (0-20%) gave the desired compound (2.4 g, 75%). LCMS calculated for C13H9Cl2FNO2 (M+H)+: m/z=300.0, 302.0. found: 299.8, 301.8. 1H NMR (300 MHz, CDCl3): δ 8.23 (s, 1H), 7.40 (m, 2H), 7.22 (m, 1H), 7.17 (m, 1H), 3.73 (s, 3H).

reactant | Methyl 5-chloro-2-(3-fluorophenyl)nicotinate 1-oxide | 11 mmol, 3.0 g | ClC=1C=[N+](C(=C(C(=O)OC)C1)C1=CC(=CC=C1)F)[O-] | C13H9ClFNO3
reactant | phosphoryl chloride | 30 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Methyl 5,6-dichloro-2-(3-fluorophenyl)nicotinate | 2.4 g, 75% | ClC=1C(=NC(=C(C(=O)OC)C1)C1=CC(=CC=C1)F)Cl | C13H8Cl2FNO2
